US04670454
4.1 g of 1,2,4-triazole in 15 ml of N,N-dimethylformamide were added to 0.66 g of sodium hydride (80% strength dispersion in mineral oil) in 15 ml of N,N-dimethylformamide at room temperature, under nitrogen. The mixture was stirred for 30 minutes, after which 5.1 g of [1-(4-chlorophenyl)-cyclobut-1-yl]-methyl methanesulfonate in 15 ml of N,N-dimethylformamide were added dropwise, and the mixture was stirred for 24 hours at room temperature and for 12 hours at 100° C., then hydrolyzed with water and extracted with ethyl acetate. 2.6 g of 1-(4-chlorophenyl)-1-(1,2,4-triazol-1-ylmethyl)-cyclobutane of melting point 124°-125° C. were obtained.

reactant | 1,2,4-triazole | 4.1 g | N1N=CN=C1 | C2H3N3
reactant | sodium hydride | 0.66 g | [H-].[Na+]
reactant | [1-(4-chlorophenyl)-cyclobut-1-yl]-methyl methanesulfonate | 5.1 g | CS(=O)(=O)OCC1(CCC1)C1=CC=C(C=C1)Cl | C12H15ClO3S
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1-(4-chlorophenyl)-1-(1,2,4-triazol-1-ylmethyl)-cyclobutane | 2.6 g | ClC1=CC=C(C=C1)C1(CCC1)CN1N=CN=C1 | C13H14ClN3
